US07091211B2
Step C: tert-Butyl 4-formyl-4-(2-(tert-butyldimethylsilyloxy)eth-1-yl)piperidine-1-carboxylate
To a solution of oxalyl chloride (3.3 mL, 38 mmol) in methylene chloride (500 mL) at −70° C. was added DMSO (5.4 mL, 76 mmol) over 5 min. After 15 min, a solution of tert-butyl 4-hydroxymethyl-4-(2-(tert-butyldimethylsilyloxy)eth-1-yl)piperidine-1-carboxylate (7.1 g, 19 mmol) in methylene chloride (125 mL) was slowly added over 15 min. After 1 h, triethylamine (21.2 mL, 152 mmol) was added and the reaction was allowed to warm to room temperature for 1 h. The mixture was poured into water and extracted three times with methylene chloride. The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography (40% ethyl acetate in hexanes) to afford the title product (6.3 g).

reactant | oxalyl chloride | 38 mmol, 3.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 76 mmol, 5.4 mL | CS(=O)C | C2H6OS
reactant | tert-butyl 4-hydroxymethyl-4-(2-(tert-butyldimethylsilyloxy)eth-1-yl)piperidine-1-carboxylate | 19 mmol, 7.1 g | OCC1(CCN(CC1)C(=O)OC(C)(C)C)CCO[Si](C)(C)C(C)(C)C | C19H39NO4Si
reactant | triethylamine | 152 mmol, 21.2 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 125 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | tert-Butyl 4-formyl-4-(2-(tert-butyldimethylsilyloxy)eth-1-yl)piperidine-1-carboxylate | 6.3 g | C(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CCO[Si](C)(C)C(C)(C)C | C19H37NO4Si
